US07754745B2
Step 4: 2-{3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxamide
To a solution of 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxylic acid (860 mg, 2.4 mmol), HOBt (324 mg, 2.4 mmol), HATU (1.5 g, 3.8 mmol) and NH4Cl (385 mg, 7.2 mmol) in DMF at rt was added DIPEA (2.1 mL, 12 mmol). The mixture was stirred at rt overnight. After dilution with water, the mixture was extracted twice with EtOAc. The EtOAc extracts were combined, washed twice with 0.5 N NaOH, diluted brine, dried (Na2SO4) and concentrated. The residue was triturated with Et2O:hexanes (1:1) to give the title compound as a pale yellow solid. 1H NMR (500 MHz, acetone-d6): δ 7.79 (s, 1 H), 7.68-7.64 (m, 2 H), 7.39 (d, 1 H), 7.15 (t, 1 H), 5.48 (s, 1 H), 3.91 (m, 1 H), 3.78-3.62 (m, 4 H), 2.57-2.49 (m, 1 H), 2.44-2.40 (m, 1 H). MS (+ESI) m/z 358 (MH+).

reactant | 2-{3-[2-(trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxylic acid | 2.4 mmol, 860 mg | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C(=O)O)C=CC=C1)(F)F | C15H13F3N2O3S
reactant | HOBt | 2.4 mmol, 324 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | HATU | 3.8 mmol, 1.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NH4Cl | 7.2 mmol, 385 mg | [NH4+].[Cl-]
reactant | DIPEA | 12 mmol, 2.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-{3-[2-(Trifluoromethyl)phenoxy]pyrrolidin-1-yl}-1,3-thiazole-5-carboxamide | FC(C1=C(OC2CN(CC2)C=2SC(=CN2)C(=O)N)C=CC=C1)(F)F | C15H14F3N3O2S
